US09079853B2
3-(2-(2,6-dimethoxypyridin-3-yl)-2-oxoethyl)-3-hydroxy-5-methyl-1-propylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-methyl-1-propylindoline-2,3-dione and 1-(2,6-dimethoxypyridin-3-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 8.14 (d, 1H) 7.23 (s, 1H), 7.08 (d, 1H), 6.76 (d, 1H), 6.36 (d, 1H), 4.67 (s, 1H), 3.99 (d, 6H), 3.69 (d, 1H), 3.66 (m, 2H), 3.47 (d, 1H), 2.29 (s, 3H), 1.75 (m, 2H), 0.98 (t, 3H).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-methyl-1-propylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C12H13NO2
reactant | 1-(2,6-dimethoxypyridin-3-yl)ethanone | COC1=NC(=CC=C1C(C)=O)OC | C9H11NO3
product | 3-(2-(2,6-dimethoxypyridin-3-yl)-2-oxoethyl)-3-hydroxy-5-methyl-1-propylindolin-2-one | COC1=NC(=CC=C1C(CC1(C(N(C2=CC=C(C=C12)C)CCC)=O)O)=O)OC | C21H24N2O5
